US05721230
A solution of 1.6 g (2.54 mmol) of 3[8(S)-[1(S)-tert.butoxy formamido-2-methylpropyl]-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-phenyl-3-indolyl)-furan-2,5-dione in 20 ml of dry N,N-dimethylformamide was treated with 5.35 ml (25.4 mmol) of hexamethyldisilazane and 0.41 g (12.8 mmol) of methanol. The solution was heated at 50° C. for 3 hours and then treated with an additional 5.35 ml (24.8 mmol) of hexamethyldisilazane and 0.41 g (12.8 mmol) of methanol. After a total of 6 hours the solvent was evaporated under reduced pressure and the residue was re-evaporated with 20 ml of methanol. Flash chromatography of the residue on silica gel using ethyl acetate/hexane (1:2) for the elution gave 1.35 g of 3[8(S)-[1(S)-tert.butoxyformamido-2-methylpropyl]-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-phenyl-3-indolyl)-1H-pyrrole-2,5-dione as a red solid of melting point 165°-168° C.

reactant | 3[8(S)-[1(S)-tert.butoxy formamido-2-methylpropyl]-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-phenyl-3-indolyl)-furan-2,5-dione | 2.54 mmol, 1.6 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)[C@@H]1CC=2N(C3=CC=CC=C3C2C=2C(OC(C2C2=CN(C3=CC=CC=C23)C2=CC=CC=C2)=O)=O)CC1 | C39H39N3O5
reactant | hexamethyldisilazane | 25.4 mmol, 5.35 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methanol | 12.8 mmol, 0.41 g | CO | CH4O
reactant | hexamethyldisilazane | 24.8 mmol, 5.35 ml | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methanol | 12.8 mmol, 0.41 g | CO | CH4O
reactant | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 3[8(S)-[1(S)-tert.butoxyformamido-2-methylpropyl]-6,7,8,9-tetrahydropyrido[1,2-a]indol-10-yl]-4-(1-phenyl-3-indolyl)-1H-pyrrole-2,5-dione | 1.35 g | C(C)(C)(C)OC(=O)N[C@@H](C(C)C)[C@@H]1CC=2N(C3=CC=CC=C3C2C=2C(NC(C2C2=CN(C3=CC=CC=C23)C2=CC=CC=C2)=O)=O)CC1 | C39H40N4O4
